US09303033B2
Synthesis of N-(5-(3-chlorophenylamino)-3-((2,5-dioxoimidazolidin-4-ylidene)methyl)pyrazolo[1,5-a]pyrimidin-7-yl)piperidine-4-carboxamide
To the reaction vial, 5-((7-amino-5-(3-chlorophenylamino)pyrazolo[1,5-a]pyrimidin-3-yl)methylene)imidazolidine-2,4-dione (15 mg, 0.04 mmol) was added to DMF (0.2 mL) along with HBTU (30 mg, 0.08 mmol), DIEA (28 μL, 0.16 mmol) and 1-(tert-butoxycarbonyl)piperidine-4-carboxylic acid (18 mg, 0.08 mmol). The reaction was stirred at room temperature for 8 hours then heated at 95° C. for 4 hours. The reaction was then cooled to room temperature and diluted with water. The solid was collected by filtration, washed with water, 1N HCl solution, and more water. The material was then dissolved in 5% DCM/MeOH and purified by prep HPLC. The isolated fractions were combined and evaporated to dryness. The material was dissolved in 1 mL of TFA/DCM (1:1) and stirred at room temperature for 1 hour. The solvent was removed by evaporation under a stream of nitrogen and the crude material was washed with 1N NaOH followed by water. The solid was collected by filtration and dried under vacuum overnight. The product, N-(5-(3-chlorophenylamino)-3-((2,5-dioxoimidazolidin-4-ylidene)methyl)pyrazolo[1,5-a]pyrimidin-7-yl)piperidine-4-carboxamide, was recovered as a solid in 2% yield. LCMS (M+1=481).

reactant | 5-((7-amino-5-(3-chlorophenylamino)pyrazolo[1,5-a]pyrimidin-3-yl)methylene)imidazolidine-2,4-dione | 0.04 mmol, 15 mg | NC1=CC(=NC=2N1N=CC2C=C2C(NC(N2)=O)=O)NC2=CC(=CC=C2)Cl | C16H12ClN7O2
reactant | HBTU | 0.08 mmol, 30 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.16 mmol, 28 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-(tert-butoxycarbonyl)piperidine-4-carboxylic acid | 0.08 mmol, 18 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)O | C11H19NO4
solvent | water | O | H2O
solvent | DMF | 0.2 mL | CN(C)C=O | C3H7NO
product | N-(5-(3-chlorophenylamino)-3-((2,5-dioxoimidazolidin-4-ylidene)methyl)pyrazolo[1,5-a]pyrimidin-7-yl)piperidine-4-carboxamide | 2% yield | ClC=1C=C(C=CC1)NC1=NC=2N(C(=C1)NC(=O)C1CCNCC1)N=CC2C=C2NC(NC2=O)=O | C22H21ClN8O3
